US04237305
Methyl DL-4-(m-acetylphenoxy)-2-tert-butoxycarbonylaminobutyrate (2.21 g.) was dissolved in pyridine (10 ml.), and to the solution was added selenium dioxide (1.11 g.), whereafter the solution was stirred at 90° C. for 4.5 hours. The reaction mixture was filtered and the filter cake was washed with ethyl acetate. These washings and the filtrate were combined and evaporated to dryness under reduced pressure to give a residue, which was poured into a mixture of an aqueous sodium bicarbonate and ethyl acetate. The insoluble materials were removed by filtration and the filtrate was adjusted to pH 2 with 10% hydrochloric acid. This aqueous solution was extracted twice with ethyl acetate, and the extract was washed with water and then dried over magnesium sulfate. The ethyl acetate was removed by evaporation from the solution under reduced pressure to give DL-m-(3-tert-butoxycarbonylamino-3-methoxycarbonylpropoxy)phenylglyoxylic acid (1.35 g.).

reactant | 4-(m-acetylphenoxy)-2-tert-butoxycarbonylaminobutyrate | 2.21 g | C(C)(=O)C=1C=C(OCCC(C(=O)[O-])NC(=O)OC(C)(C)C)C=CC1
reactant | selenium dioxide | 1.11 g | [Se](=O)=O | O2Se
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | m-(3-tert-butoxycarbonylamino-3-methoxycarbonylpropoxy)phenylglyoxylic acid | 1.35 g | C(C)(C)(C)OC(=O)NC(CCOC=1C=C(C=CC1)C(C(=O)O)=O)C(=O)OC | C18H23NO8
